Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.953071223899999
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.22282943711
[C:7]#[C:8][H:9].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9],-5.9314763075600005
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8],3.3834090104500003
[C:5][H:6].[H:1][C:2]=[C:3]([H:4])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.76786641663
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.31953946503
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.263055917
[H:13].[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.98400809354
[H:1].[O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.6747291105
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],-3.5522465044
[C:5]([H:6])([H:7])([C:8])[H:13].[H:1][C:2]=[C:3]([H:4])[C:9]([C:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-9.03468000479
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.95385973335
[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:7][H:8]>>[C:1]#[C:2][C:4]([C:5]#[C:6])[O:7][H:8].[H:3],3.94348226297
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:8][H:9].[O:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9],-7.68188706276
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.80325622847
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2],2.05603228257
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:8][H:9],-2.52538440692
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:9][H:10])[C:11]([H:12])([H:13])[H:14],4.12491743203
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-1.13089341964
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14],-1.81451529715
[C:1]#[C:2][C:3]([H:4])[C:5](=[O:6])[O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:7][H:8].[O:6],7.22282997968
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17],-2.78254372748
[H:1][C:2]1[O:3][O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([O:3][O:4])=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.700512723621
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.80189092897
[O:1]=[C:2][C@:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],2.11140351347
[H:12].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.723165105990001
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],2.01078541237
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:9]([H:10])(=[C:11]([H:12])[H:13])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:14][H:15],1.7783872217400003
